Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ETOH withdrawal seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ history of anxiety, ETOH abuse w/ ___ w/d in last year, 
but no seizures or DT, who presented after ___ experienced a 
withdrawal seizure. ___ reports that ___ has been sober for 7 
months and is part of AA, but during the ___ started 
drinking again. His usual pattern includes several months of 
sobriety followed by severe binge. ___ last drank on ___ all 
the way to ___, and had a bottle of wine, a bottle of gin, 
and a number of beers. ___ then started feeling tremulous, 
palpitations, warm, flushed and "an impending sense of doom". ___ 
denied any visual, auditory or tactile hallucinations. This 
prompted him to go to Target on ___ morning to pick up 
Gatorade and vitamins in an attempt to self-medicate. There, ___ 
had a witnessed tonic-clonic seizure for ___. ___ hit his 
forehead, which resulted in 2 small lacerations. Subsequently, 
___ did not remember the event and was confused, being 
disoriented to year and self. This resolved after 15 minutes 
while ___ was in the ambulance to ___. 

In the ED, ___ continued to be tremulous. Initial vitals were: 
T97.9 89-140s, BP 120s-150s/80-90s. Exam is significant for an 
anxious-appearing male who is diaphoretic there is a 1 x 2 cm 
T-shaped laceration above his right eyebrow with a small 1 cm 
laceration on his right forehead. There no focal neurologic 
deficits pupils are to 4 mm equal and reactive bilaterally. 
Extraocular movements intact. Patient has no other signs of head 
or neck trauma no pain or tenderness to palpation. Patient does 
have shaking of his hands. CIWA 3. 

Labs were notable for:  WBC 8.6, Hgb 13.5, Cr 1.0, lactate 
12.2-->1.9.
EKG shows a flutter vs svt at a rate of 150 with no acute 
ischemic changes. Non-con head CT neg. CT Cspine shows no acute 
fracture or dislocation. ___ was given 2L NS, thiamine, folate, 
Ativan 1mg, diazepam 10mg. 

On the floor, patient was calm, cooperative. ___ remained 
hypertensive to the 150s/60s but HR was in the ___. ___ denied 
any hallucinations, disorientation, palpitations, hyperthermia, 
agitation, and diaphoresis.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
Anxiety, depression, ETOH abuse. 
 
Social History:
___
Family History:
Mother: diabetes, father: diabetes, no family history of liver 
cancer or ETOH abuse. 
 
Physical Exam:
Physical Exam on Admission:
Vitals: 97.1 BP 150s/60s HR ___, RR 18 O2 98% RA  
General: Alert, oriented, no acute distress  
HEENT: 1 x 2 cm T-shaped laceration above his right eyebrow with 
suture in place. A small 1 cm laceration on his right forehead. 
Small 1cm tongue lac on L lateral tongue. Sclera anicteric, MMM, 
oropharynx clear, EOMI. Pupils 4mm.  No Nystagmus. 
Neck: Supple, JVP not elevated, no LAD  
CV: RRR, no m/r/g, JVP flat. 
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, faintly tremulous. 2+ pulses, no 
clubbing, cyanosis or edema  
Neuro: AAOx3, CNII-XII intact, no tremulousness, no nystagmus. 
___ strength upper/lower extremities, grossly normal sensation, 
2+ reflexes bilaterally, gait deferred.  
=
=
=
=
=
=
=
=
=
================================================================
Physical Exam on Discharge:
Vitals: 97.8 BP140s-150s/60s HR ___, RR 18 O2 98% RA  
General: Alert, oriented, no acute distress  
HEENT: 1 x 2 cm T-shaped laceration above his right eyebrow with 
suture in place. A small 1 cm laceration on his right forehead. 
Small 1cm tongue lac on L lateral tongue. Sclera anicteric, MMM, 
oropharynx clear, EOMI. PERRL  No Nystagmus. 
Neck: Supple, JVP not elevated, no LAD  
CV: RRR, no m/r/g, JVP flat. 
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, faintly tremulous. 2+ pulses, no 
clubbing, cyanosis or edema  
Neuro: AAOx3, CNII-XII intact, no tremulousness, no nystagmus. 
___ strength upper/lower extremities, grossly normal sensation, 
2+ reflexes bilaterally, gait deferred.  
 
Pertinent Results:
Labs on Admission:
___ 02:21PM BLOOD Lactate-12.2*
___ 04:48PM BLOOD Lactate-1.9
___ 01:50PM BLOOD Calcium-10.0 Phos-3.5 Mg-2.0
___ 01:50PM BLOOD ALT-PND AST-PND CK(CPK)-PND AlkPhos-PND 
TotBili-PND
___ 01:50PM BLOOD Glucose-178* UreaN-13 Creat-1.0 Na-134 
K-4.4 Cl-88* HCO3-15* AnGap-35*
___ 01:50PM BLOOD Neuts-63.3 ___ Monos-11.1 
Eos-0.2* Baso-0.8 Im ___ AbsNeut-5.47 AbsLymp-2.08 
AbsMono-0.96* AbsEos-0.02* AbsBaso-0.07
___ 01:50PM BLOOD WBC-8.6 RBC-4.57* Hgb-13.5* Hct-41.2 
MCV-90 MCH-29.5 MCHC-32.8 RDW-14.6 RDWSD-48.5* Plt ___
___ 01:50PM BLOOD Plt ___

=
=
=
=
=
================================================================
Labs on Discharge:
___ 06:29AM BLOOD WBC-5.3 RBC-3.96* Hgb-11.8* Hct-35.7* 
MCV-90 MCH-29.8 MCHC-33.1 RDW-14.9 RDWSD-49.1* Plt ___
___ 06:29AM BLOOD Glucose-77 UreaN-13 Creat-0.8 Na-136 
K-3.7 Cl-99 HCO3-28 AnGap-13
___ 06:29AM BLOOD ALT-69* AST-114* CK(CPK)-___* AlkPhos-49 
TotBili-1.1
___ 06:29AM BLOOD Calcium-8.7 Phos-3.8 Mg-2.0
___ 06:29AM BLOOD ALT-69* AST-114* CK(CPK)-___* AlkPhos-49 
TotBili-1.1
___ 06:29AM BLOOD Calcium-8.7 Phos-3.8 Mg-2.0

=
=
=
=
=
================================================================
Clinical Imaging/Studies

___: Non-Con Head CT
IMPRESSION:  
No acute intracranial process.  Please note that MRI is more 
sensitive in 
detecting seizure foci. 

___: CT CSpine:
IMPRESSION: 
1. No acute fracture or dislocation. 

 
Brief Hospital Course:
___ w/ history of anxiety, ETOH abuse w/ ___ w/d in last year, 
but no seizures or DT, admitted for ETOH withdrawal seizure. 

#ETOH Withdrawal Seizure: Patient has a chronic history of ETOH 
abuse but no withdrawal seizures in the past. ___ reports being 
sober for 7 months but relapsing during ___ Holidays. Last 
drink was on ___ in ___. ___ attempted to go to Target to 
purchase Gatorade for hydration and suffered a ___ 
witnessed, generalized tonic-clonic seizure with head strike. 
Non-con head CT negative for bleed. ___ suffered two small 
forehead lacerations that was s/p repair in the ED. Patient was 
also tachycardic/hypertensive on admission but no 
hallucinations, disorientation, hyperthermia, or agitation. ___ 
was treated with IV Diazepam 10mg x1 and IV Ativan 1mg x1 with 
improvement in symptoms. ___ was also initially in Afib/aflutter 
with HR in 150s, but subsequently resolved. ___ blood 
pressure ranged from 140-150s/60s-70s without any baseline 
history of hypertension. 

Since admission, ___ did not score on CIWA and did not require 
any additional medications. Patient was advised to remain in the 
hospital for an additional day for close monitoring, but due to 
work responsibilities ___ decided to leave against medical 
advice. We discussed with him at length regarding the risks and 
benefits of leaving AMA, and ___ was fully aware that adverse 
events may occur including seizure and death. Patient was 
counseled to return to the nearest emergency room should ___ 
experience any withdrawal. ___ was also counseled extensively 
about abstinence from ETOH, and will follow-up with AA. With 
___ consent, we left a voice message for his outpatient 
psychiatrist, Dr. ___ regarding ___ recent 
hospitalization. 

#Primary Care Follow-Up: Patient also voiced an interest to 
follow-up with a PCP, which ___ does not have. Due to the 
discharge occurring on a ___, we were unable to schedule him 
an appointment. ___ was provided with the number to Health Care 
Associates at ___ 
(___) and instructed to call on ___ to set up 
primary care follow-up. 

#Anxiety: Patient has a longstanding history of anxiety and 
endorsed being on Ativan for ___ years until ___. ___ is followed 
by Dr. ___ (psychiatry). His anxiety was stable 
during this hospitalization. With Mr. ___ consent, we left 
a voice message for Dr. ___ regarding ___ 
recent hospitalization. 

It was a pleasure to care for him during this hospitalization.

=
=
=
=
================================================================
Transitional Issues:
1. Follow-up with patient regarding ETOH withdrawal and 
abstinence counseling. Patient decided to leave AMA due to work 
obligations, and was counseled extensively about risks. 
2. Follow-up on ___ blood pressure, which ranged 
140s-150s/60s-70s on discharge. 
3. Patient advised to call ___ at ___ at ___ to set 
up primary care follow up
4. Patient will require suture removal from right forehead in ~ 
5 days. Patient was advised to f/u at ___ to have this done

# CODE: Full Code 
# CONTACT: ___, Wife, ___ 

 
Medications on Admission:
None
 
Discharge Medications:
None. Patient was offered scripts for Tylenol, thiamine, B12 and 
folate, which ___ declined. ___ cited that ___ will purchase them 
over-the-counter from his local ___. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
1. Alcohol withdrawal seizure

Secondary Diagnoses:
1. Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at ___ 
___. You were admitted to the hospital for alcohol 
withdrawal seizure, which occurred on ___. In the emergency 
room, you were given diazepam and Ativan for withdrawal 
symptoms. Your heart rate and blood pressure were high. This was 
likely due to your alcohol withdrawal and improved at the time 
of discharge. After being admitted, your symptoms continued to 
improve and you did not require any additional medications. We 
recommended that you stay for continued monitoring, however you 
elected to leave against medical advice. You were counseled that 
this could result in adverse events including seizures or death, 
and decided to leave after having a full understanding of the 
risks. Please be cautious of your symptoms and go to your 
nearest emergency department should you feel rapid palpitations, 
tremulousness, agitation, or profuse sweating. Because you were 
discharged on a ___, we were unable to schedule you an 
appointment with a primary care doctor. Please call Health Care 
Associates at ___ (___) at your 
earliest convenience to set up a primary care appointment.   
Additionally, you will need your sutures removed in 5 days.  You 
may call Health Care Associates as noted above to schedule this. 
 

We wish you well.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___